US09428499B2
Step-b: Synthesis of 2-(3-Aminophenyl)-N-(oxetan-3-yl)acetamide
2-(3-Nitrophenyl)-N-(oxetan-3-yl)acetamide (0.5 g, 2.11 mmol) was taken in methanol (20 ml) and at 0° C., 10% Pd—C (0.5 g) was added. The reaction mixture was stirred under hydrogen atmosphere at room temperature for 5 hrs. The reaction mixture was filtered through celite and the filtrate was concentrated under vacuum to afford the title product (0.42 gm).

reactant | 2-(3-Nitrophenyl)-N-(oxetan-3-yl)acetamide | 2.11 mmol, 0.5 g | [N+](=O)([O-])C=1C=C(C=CC1)CC(=O)NC1COC1 | C11H12N2O4
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd—C | 0.5 g | [Pd] | Pd
product | 2-(3-Aminophenyl)-N-(oxetan-3-yl)acetamide | 0.42 gm | NC=1C=C(C=CC1)CC(=O)NC1COC1 | C11H14N2O2
